US09428452B2
4-bromo-N-(2,4-dimethylphenyl)-3,5-difluoro-N-isobutylbenzenesulfonamide
To a solution of 4-bromo-3,5-difluorobenzene-1-sulfonyl chloride (1462 mg, 5.02 mmol) in pyridine (10 mL) at 20° C. was added N-isobutyl-2,4-dimethylaniline (889 mg, 5.01 mmol) and the reaction mixture was stirred at 20° C. for 2 hours. The reaction mixture was then evaporated in vacuo and redissolved in ethyl acetate. The organic phase was washed with saturated sodium carbonate (25 mL), dried using a hydrophobic frit and evaporated in vacuo to give the required product as a yellow oil, 2.06 g. LCMS [LCMS2] Rt 1.57 min, m/z (ES+) 432/434 (M+H).

reactant | 4-bromo-3,5-difluorobenzene-1-sulfonyl chloride | 5.02 mmol, 1462 mg | BrC1=C(C=C(C=C1F)S(=O)(=O)Cl)F | C6H2BrClF2O2S
reactant | N-isobutyl-2,4-dimethylaniline | 5.01 mmol, 889 mg | C(C(C)C)NC1=C(C=C(C=C1)C)C | C12H19N
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 4-bromo-N-(2,4-dimethylphenyl)-3,5-difluoro-N-isobutylbenzenesulfonamide | BrC1=C(C=C(C=C1F)S(=O)(=O)N(CC(C)C)C1=C(C=C(C=C1)C)C)F | C18H20BrF2NO2S
